US04460588
2-[2-(4-Acetamidophenoxy)ethoxy]ethanol (9 g) was dissolved in dry dimethylsulfoxide (60 ml) and granular sodium hydride (0.9 g) was added portionwise to the solution. 2,5-Dichloropyrimidine (5.6 g) was slowly added to the cooled stirred solution and on completion of the addition the mixture was stirred at room temperature for 1 hour. The mixture was poured into water (200 ml) and the solid was collected by filtration. The product was recrystallised from ethanol/water to give 2-{2-[2(4-acetamidophenoxy)ethoxy]ethoxy}-5-chloropyrimidine (8.4 g), m.p. 110° C.

reactant | 2-[2-(4-Acetamidophenoxy)ethoxy]ethanol | 9 g | C(C)(=O)NC1=CC=C(OCCOCCO)C=C1 | C12H17NO4
reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | 2,5-Dichloropyrimidine | 5.6 g | ClC1=NC=C(C=N1)Cl | C4H2Cl2N2
reactant | water | 200 ml | O | H2O
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 2-{2-[2(4-acetamidophenoxy)ethoxy]ethoxy}-5-chloropyrimidine | 8.4 g | C(C)(=O)NC1=CC=C(OCCOCCOC2=NC=C(C=N2)Cl)C=C1 | C16H18ClN3O4
